US05840751
5,6-Dihydro-4-hydroxy-3-[ (naphthalen-1-yl)methyl]-6,6-diphenyl-2H-pyran-2-one.
The title compound was prepared as described in General Method 8 using the following: 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (0.300 g, 1.13 mmol), Et3N (0.160 mL, 1.15 mmol), l-naphthoyl chloride (1.13 mmol), CH2Cl2 (6.0 mL), acetonitrile (4.0 mL), acetone cyanohydrin (0.05 mL, 0.5 mmol), Et3N (0.35 mL, 2.5 mmol), glacial acetic acid (6.0 mL), sodium cyanoborohydride (0.50 g, 7.9 mmol). Purification was achieved by submitting the final residue to column chromatograpy (SiO2, 100% CH2Cl2 to 1.5% MeOH in CH2 Cl2) to provide a solid (0.120 g, 203°-205° C.(dec.)). 1H NMR (400 MHz, DMSO-d6) δ 11.223 (bs, 1 H), 8.057 (d, 1 H, J=7 Hz), 7.855-7.821 (m, 1 H), 7.603 (d, 1 H, J=8 Hz), 7.514-7.302 (m, 12 H), 6.866 (dd, 1 H, J=6.5 Hz, J=8 Hz), 5.975 (d, 1 H, J=7 Hz), 3.874 (s, 2 H), 3.621 (s, 2 H).

reactant | 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.13 mmol, 0.300 g | OC1=CC(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H14O3
reactant | Et3N | 1.15 mmol, 0.160 mL | CCN(CC)CC | C6H15N
reactant | l-naphthoyl chloride | 1.13 mmol | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | acetone cyanohydrin | 0.5 mmol, 0.05 mL | CC(C#N)(O)C | C4H7NO
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 7.9 mmol, 0.50 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-3-[ (naphthalen-1-yl)methyl]-6,6-diphenyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC=CC2=CC=CC=C12 | C28H22O3
